* Copyright 2020 The SkyWater PDK Authors
*
* Licensed under the Apache License, Version 2.0 (the "License");
* you may not use this file except in compliance with the License.
* You may obtain a copy of the License at
*
*     https://www.apache.org/licenses/LICENSE-2.0
*
* Unless required by applicable law or agreed to in writing, software
* distributed under the License is distributed on an "AS IS" BASIS,
* WITHOUT WARRANTIES OR CONDITIONS OF ANY KIND, either express or implied.
* See the License for the specific language governing permissions and
* limitations under the License.

* SKY130 Spice File.
.include "sky130_fd_pr__nfet_20v0_zvt__parasitic__diode_ps2dn__extended_drain.model.spice"
.subckt  sky130_fd_pr__nfet_20v0_zvt d g s b  w=60u l=2u m=1 t=30
+ ad=0 as=0 pd=0 ps=0 nrd=2 nrs=2 mf=1 sa=0 sb=0
.param  rdrift_tnom=4.73057453e+003 vgdep_tnom=0.020646 vth_tnom=7.000000e-001 vbdep_tnom=-5.260300e-001
+ vth2=0.5 hvvsat_tnom=1.236813882 avsat_tnom=7.467500e-001 deltaw=9.000000e-001 hvnel_n20zvtvhv1=5.00 hvvbdep=-2.490600e-002
.param
+ sky130_fd_pr__nfet_20v0_zvt__pgatejunction_mult = 1.7357
+ sky130_fd_pr__nfet_20v0_zvt__mjswgatejunction_mult = 5.3981e-1
+ sky130_fd_pr__nfet_20v0_zvt__pbswgatejunction_mult = 3.4999e+0
.param
+ sky130_fd_pr__nfet_20v0_zvt__vgdep_mult=1
+ n20zvtvhv1res_vth0_diff=0.0
+ sky130_fd_pr__nfet_20v0_zvt__vbdep_mult=1
+ sky130_fd_pr__nfet_20v0_zvt__avsat_mult=0.984
.param
+ w_n20zvtvhv1 = 30.00
+ nrd_n20zvtvhv1 = 2.0
+ nrs_n20zvtvhv1 = 2.0
+ ad_n20zvtvhv1 = 103.5
+ as_n20zvtvhv1 = 8.7
+ pd_n20zvtvhv1 = 41.75
+ ps_n20zvtvhv1 = 60.58
+ delvto_n20zvtvhv1 = 0.0
.param tc1_vgdep=0
.param tc1_vth=0
.param tc1_vbdep=0
.param tc1_hvvsat_n20zvtvhv1=0.0061411164700097
.param tc2_rdrift_n20zvtvhv1=5.0768e-005
.param tc2_vgdep=0
.param tc2_vth=0
.param tc2_vbdep=0
.param tc2_hvvsat_n20zvtvhv1=3.61396725197052E-05
.param tc2_avsat_n20zvtvhv1=3.0122688512968E-06
.param tc1_rdrift_n20zvtvhv1=0.012359
.param tc1_avsat_n20zvtvhv1=-7.4563e-04
.param
+ rdrift='rdrift_tnom*((w_n20zvtvhv1-deltaw)/w_n20zvtvhv1)*(1+tc1_rdrift_n20zvtvhv1*(temper-30)+tc2_rdrift_n20zvtvhv1*(temper-30)*(temper-30))*sky130_fd_pr__nfet_20v0_zvt__rdrift_mult'
+ vgdep='vgdep_tnom*(1+tc1_vgdep*(temper-30)+tc2_vgdep*(temper-30)*(temper-30))*sky130_fd_pr__nfet_20v0_zvt__vgdep_mult'
+ vth='vth_tnom*(1+tc1_vth*(temper-30)+tc2_vth*(temper-30)*(temper-30))+n20zvtvhv1res_vth0_diff'
+ vbdep='vbdep_tnom*(1+tc1_vbdep*(temper-30)+tc2_vbdep*(temper-30)*(temper-30))*sky130_fd_pr__nfet_20v0_zvt__vbdep_mult'
+ hvvsat='hvvsat_tnom*(1+tc1_hvvsat_n20zvtvhv1*(temper-30)+tc2_hvvsat_n20zvtvhv1*(temper-30)*(temper-30))*sky130_fd_pr__nfet_20v0_zvt__hvvsat_mult'
+ avsat='avsat_tnom*(1+tc1_avsat_n20zvtvhv1*(temper-30)+tc2_avsat_n20zvtvhv1*(temper-30)*(temper-30))*sky130_fd_pr__nfet_20v0_zvt__avsat_mult'
m1 d1 g s b sky130_fd_pr__nfet_20v0_zvt__base  w=w_n20zvtvhv1 l=hvnel_n20zvtvhv1 ad=0 as=0 pd=0 ps=0 nrd=nrd_n20zvtvhv1 nrs=nrs_n20zvtvhv1 delvto=delvto_n20zvtvhv1 m=m
rldd d d1 r='abs((1/w_n20zvtvhv1)*(rdrift/(1+vgdep*(v(g,s)-vth-vbdep*v(b,s))))*(1+pwr((abs(v(d,s)+vth2-min(v(d1,s),60))/(hvvsat*(1+hvvbdep*v(b,s)))),avsat)))' tc1 = 0 tc2 = 0 m = {m}
dNDrain1 b d sky130_fd_pr__nfet_20v0_zvt__parasitic__diode_ps2dn__extended_drain area='0.5*ad_n20zvtvhv1' pj='0.5*pd_n20zvtvhv1' m=m
dNDrain2 b d1 sky130_fd_pr__nfet_20v0_zvt__parasitic__diode_ps2dn__extended_drain area='0.5*ad_n20zvtvhv1' pj='0.5*pd_n20zvtvhv1' m=m
dNSrc b s sky130_fd_pr__diode_pw2nd_05v5 area=as_n20zvtvhv1 pj='ps_n20zvtvhv1-w_n20zvtvhv1' m=m
.model sky130_fd_pr__nfet_20v0_zvt__base.0 nmos
* DC IV MOS Parameters
+ lmin = 4.95e-07 lmax = 6.05e-06 wmin = 1.9995e-05 wmax = 6.0005e-5
+ level = 54.0
+ tnom = 30.0
+ version = 4.5
+ toxm = 1.16e-8
+ xj = 1.5e-7
+ lln = 1.0
+ lwn = 1.0
+ wln = 1.0
+ wwn = 1.0
+ lint = '3.36507e-07 + sky130_fd_pr__nfet_20v0__lint_diff + sky130_fd_pr__nfet_20v0_zvt__lint_diff'
+ ll = 0.0
+ lw = 0.0
+ lwl = 0.0
+ wint = '2.1346e-08 + sky130_fd_pr__nfet_20v0__wint_diff'
+ wl = 0.0
+ ww = 0.0
+ wwl = 0.0
+ xl = 0.0
+ xw = 0.0
+ mobmod = 0.0
+ binunit = 2.0
+ dwg = -4.1292e-9
+ dwb = -1.6944e-9
* BSIM4 - Model Selectors
+ igcmod = 0.0
+ igbmod = 0.0
+ rgatemod = 0.0
+ rbodymod = 1.0
+ trnqsmod = 0.0
+ acnqsmod = 0.0
+ fnoimod = 1.0
+ tnoimod = 1.0
+ permod = 1.0
+ geomod = 0.0
+ rdsmod = 0.0
+ tempmod = 0.0
+ lintnoi = 0.0
+ vfbsdoff = 0.0
+ lambda = 0.0
+ vtl = 0.0
+ lc = 5.0e-9
+ xn = 3.0
+ rnoia = 0.794
+ rnoib = 0.38
+ tnoia = 7.5e+6
+ tnoib = 7.2e+6
* BSIM4 - Process Parameters
+ epsrox = 3.9
+ toxe = '1.16e-08*sky130_fd_pr__nfet_20v0__toxe_mult'
+ dtox = 0.0
+ ndep = 1.7e+17
+ nsd = 1.0e+20
+ rshg = 0.1
+ rsh = '1.0*sky130_fd_pr__nfet_20v0__rshn_mult'
* Threshold Voltage Parameters
+ vth0 = '-0.11887 + sky130_fd_pr__nfet_20v0_zvt__vth0_diff'
+ k1 = 1.019
+ k2 = '-0.3395 + sky130_fd_pr__nfet_20v0_zvt__k2_diff'
+ k3 = -0.884
+ dvt0 = 0.0
+ dvt1 = 0.53
+ dvt2 = -0.19251
+ dvt0w = 0.16
+ dvt1w = 6.9091e+6
+ dvt2w = -0.036016
+ w0 = 0.0
+ k3b = 0.43
* NEW BSIM4 Parameters for Level 54
+ phin = 0.0
+ lpe0 = 0.0
+ lpeb = -2.182e-7
+ vbm = -3.0
+ dvtp0 = 0.0
+ dvtp1 = 0.0
* Mobility Parameters
+ vsat = '8.2379e+004 + sky130_fd_pr__nfet_20v0_zvt__vsat_diff'
+ ua = -8.598600e-11
+ ub = 8.3776e-19
+ uc = 6.9552e-10
+ rdsw = 10554.0
+ prwb = 0.36549
+ prwg = 0.0208
+ wr = 1.0
+ u0 = '0.070088 + sky130_fd_pr__nfet_20v0_zvt__u0_diff'
+ a0 = -0.39335
+ keta = '0.044964  + sky130_fd_pr__nfet_20v0_zvt__keta_diff'
+ a1 = 0.37848
+ a2 = 0.54362
+ ags = '0.17085  + sky130_fd_pr__nfet_20v0_zvt__ags_diff'
+ b0 = 3.2933e-8
+ b1 = 0.0
* BSIM4 - Mobility Parameters
+ eu = 1.67
+ rdswmin = 0.0
+ rdw = 0.0
+ rdwmin = 0.0
+ rsw = 0.0
+ rswmin = 0.0
* Subthreshold Current Parameters
+ voff = -0.20613
+ nfactor = 0.0
+ up = 0.0
+ ud = 0.0
+ lp = 1.0
+ tvfbsdoff = 0.0
+ tvoff = 0.0
+ cit = -0.0008
+ cdsc = 0.0
+ cdscb = 0.0
+ cdscd = 0.0
+ eta0 = 0.11256
+ etab = -0.028284
+ dsub = 0.084
* BSIM4 - Sub-threshold parameters
+ voffl = -4.2579486e-7
+ minv = 0.0
* Rout Parameters
+ pclm = 0.2
+ pdiblc1 = 0.21098
+ pdiblc2 = 0.0002
+ pdiblcb = -0.26831
+ drout = 0.36075
+ pscbe1 = 4.0572e+9
+ pscbe2 = 1.68e-6
+ pvag = 1.99
+ delta = 0.14671
+ alpha0 = 3.2602e-9
+ alpha1 = 0.0
+ beta0 = 58.234
* BSIM4 - Rout Parameters
+ fprout = 10.125
+ pdits = 0.0
+ pditsl = 0.0
+ pditsd = 0.0
* BSIM4 - Gate Induced Drain Leakage Model Parameters
+ agidl = '5.06e-016 + sky130_fd_pr__nfet_20v0_zvt__agidl_diff'
+ bgidl = 1.058e+9
+ cgidl = 4000.0
+ egidl = 0.8
* BSIM4 - Gate Leakage Current Parameters
+ aigbacc = 1.0
+ bigbacc = 0.0
+ cigbacc = 0.0
+ nigbacc = 1.0
+ aigbinv = 0.35
+ bigbinv = 0.03
+ cigbinv = 0.006
+ eigbinv = 1.1
+ nigbinv = 3.0
+ aigc = 0.43
+ bigc = 0.054
+ cigc = 0.075
+ nigc = 1.0
+ aigsd = 0.43
+ bigsd = 0.054
+ cigsd = 0.075
+ dlcig = 0.0
+ poxedge = 1.0
+ pigcd = 1.0
+ ntox = 1.0
+ toxref = 1.16e-8
* Temperature Effects Parameters
+ kt1 = -0.20782
+ kt2 = -0.042078
+ at = 169440.0
+ ute = -1.42
+ ua1 = 6.3160e-9
+ ub1 = -6.6715e-18
+ uc1 = -5.9821e-11
+ kt1l = 0.0
+ prt = 0.0
* BSIM4 - High Speed RF Model Parameters
+ xrcrg1 = 12.0
+ xrcrg2 = 1.0
+ rbpb = 50.0
+ rbpd = 50.0
+ rbps = 50.0
+ rbdb = 50.0
+ rbsb = 50.0
+ gbmin = 1.0e-12
* BSIM4 - Flicker and Thermal Noise Parameters
+ noia = 2.6e+41
+ noib = 0.0
+ noic = 0.0
+ em = 4.1000000e+7
+ af = 1.0
+ ef = 0.89
+ kf = 0.0
+ ntnoi = 1.0
* BSIM4 - Layout Dependent Parasitic Model Parameters
+ dmcg = 0.0
+ dmcgt = 0.0
+ dmdg = 0.0
+ xgw = 0.0
+ xgl = 0.0
+ ngcon = 1.0
* Diode DC IV Parameters
* BSIM4 - Diode DC IV parameters
+ diomod = 1.0
+ njs = 1.0773
+ jss = 0.000375
+ jsws = 5.84e-11
+ xtis = 0.76
+ bvs = 12.636
+ xjbvs = 1.0
+ ijthsrev = 0.1
+ ijthsfwd = 0.1
* Diode and FET Capacitance Parameters
+ tpb = 0.001344
+ tpbsw = 0.00099005
+ tpbswg = 0.0
+ tcj = 0.00067434
+ tcjsw = 0.0002493
+ tcjswg = -0.005
+ cgdo = '4.3400e-010*sky130_fd_pr__nfet_20v0__overlap_mult'
+ cgso = '4.3400e-010*sky130_fd_pr__nfet_20v0__overlap_mult'
+ cgbo = 0.0
+ capmod = 2.0
+ xpart = 0.0
+ cgsl = '5e-011*sky130_fd_pr__nfet_20v0__overlap_mult'
+ cgdl = '5e-011*sky130_fd_pr__nfet_20v0__overlap_mult'
+ cf = 0.0
+ clc = 1.0e-7
+ cle = 0.6
+ dlc = '6.5995e-08+sky130_fd_pr__nfet_20v0__dlc_diff-0.5e-6'
+ dwc = '0.0+sky130_fd_pr__nfet_20v0__dwc_diff'
+ vfbcv = -1.0
+ acde = 0.4176
+ moin = 15.0
+ noff = 4.0
+ voffcv = -0.4104
+ ngate = 1.0e+23
+ lwc = 0.0
+ llc = 0.0
+ lwlc = 0.0
+ wlc = 0.0
+ wwc = 0.0
+ wwlc = 0.0
* BSIM4 - FET and Diode capacitance parameters
+ ckappas = 0.6
+ cjs = '0.0008512*sky130_fd_pr__nfet_20v0__ajunction_mult'
+ mjs = 0.295
+ pbs = 0.72468
+ cjsws = '1.5204e-011*sky130_fd_pr__nfet_20v0__pjunction_mult'
+ mjsws = 0.037586
+ pbsws = 0.29067
+ cjswgs = '5.4e-011*sky130_fd_pr__nfet_20v0_zvt__pgatejunction_mult*sky130_fd_pr__nfet_20v0__pjunction_mult'
+ mjswgs = '0.78692*sky130_fd_pr__nfet_20v0_zvt__mjswgatejunction_mult'
+ pbswgs = '0.54958*sky130_fd_pr__nfet_20v0_zvt__pbswgatejunction_mult'
+ cjd = 0.0
+ cjswgd = 0.0
+ cjswd = 0.0
* Stress Parameters
+ saref = 1.81e-6
+ sbref = 1.81e-6
+ wlod = 0.0
+ kvth0 = 1.1e-8
+ lkvth0 = 0.0
+ wkvth0 = 6.5e-7
+ pkvth0 = 0.0
+ llodvth = 0.0
+ wlodvth = 1.0
+ stk2 = 0.0
+ lodk2 = 1.0
+ lodeta0 = 1.0
+ ku0 = -4.5e-8
+ lku0 = 0.0
+ wku0 = 2.0e-7
+ pku0 = 0.0
+ llodku0 = 0.0
+ wlodku0 = 1.0
+ kvsat = 0.3
+ steta0 = 0.0
+ tku0 = 0.0
.ends sky130_fd_pr__nfet_20v0_zvt
*.END
